resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.003275
R2 0 n2 0.982756
R3 0 n4 21.4308
R4 n1 n3 1.007981
R5 n1 n5 1.010756
R6 n2 n3 0.988051
R7 n2 n6 1.01549
R8 n3 n7 0.996276
R9 n4 n5 1.00235
R10 n4 n6 1.017614
R11 n5 n7 1.003321
R12 n6 n7 0.986567
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
